US05378690
t-Butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate
A mixture of 12.92 g (43.6 mmole) of t-butyl 2-(1-naphthylmethyl)-4-pentenoate (prepared as described in Preparation 10), 11.29 g (65.4 mmole) of m-chloroperbenzoic acid and 100 ml of methylene chloride was stirred at room temperature for 24 hours. At the end of this time, the reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent: a 5: 95 by volume mixture of methanol and methylene chloride), to afford 4.57 g (33.6%) of the title compound as a pale yellow oil.

reactant | t-butyl 2-(1-naphthylmethyl)-4-pentenoate | 43.6 mmole, 12.92 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OC(C)(C)C)CC=C | C20H24O2
reactant | m-chloroperbenzoic acid | 65.4 mmole, 11.29 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | t-Butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate | 4.57 g, 33.6% | O1C(CC(C(=O)OC(C)(C)C)CC2=CC=CC3=CC=CC=C23)C1 | C20H24O3
